US05298627
A solution of (4R-cis)-6-(cyanomethyl)-2,2-dimethyl-N,N-bis(phenylmethyl)-1,3-dioxane-4-acetamide (10 0 g, 0.025 mol) in methanol (150 mL) containing anhydrous ammonia (2.25 g) is reacted with hydrogen gas in a Parr shaker at 30° C. in a presence of a slurry of Raney nickel A-7000 (3.7 g). After 3 hours, uptake of hydrogen has ceased, the mixture is cooled to 20° C., the atmosphere is vented and exchanged for nitrogen, the slurry is filtered through celite, and concentrated at reduced pressure to give 9.4 g of (4R-cis)-6-(2-aminoethyl)-2,2-dimethyl-N,N-bis(phenylmethyl)-1,3-dioxane-4-acetamide as an oil;

reactant | (4R-cis)-6-(cyanomethyl)-2,2-dimethyl-N,N-bis(phenylmethyl)-1,3-dioxane-4-acetamide | 0.025 mol, 0 g | C(#N)C[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C24H28N2O3
reactant | ammonia | 2.25 g | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | methanol | 150 mL | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | (4R-cis)-6-(2-aminoethyl)-2,2-dimethyl-N,N-bis(phenylmethyl)-1,3-dioxane-4-acetamide | 9.4 g | NCC[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C24H32N2O3
